US07129268B2
{4-[3,3-Bis-(4-chloro-phenyl)-allylsulfanyl]-2-chloro-phenoxy}-acetic acid
A solution of {{4-[3,3-bis-(4-chloro-phenyl)-allylsulfanyl]-2-chloro-phenoxy}-acetic acid ethyl ester (100 mg, 0.2 mmol) in 1N NaOH (1 ml) and ethanol (10 ml) was stirred at room temperature for 18 hours. The reaxtion mixture was evaporated and the residue dissolved in water (5 ml) and 1 N HCl (1.2 ml). The aquous phase was extracted with ethyl acetate (3×15 ml), dried (MgSO4) and evaporated to give the title compound in 95 mg (100%) yield.

reactant | {4-[3,3-bis-(4-chloro-phenyl)-allylsulfanyl]-2-chloro-phenoxy}-acetic acid ethyl ester | 0.2 mmol, 100 mg | C(C)OC(COC1=C(C=C(C=C1)SCC=C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)Cl)=O | C25H21Cl3O3S
solvent | NaOH | 1N, 1 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | {4-[3,3-Bis-(4-chloro-phenyl)-allylsulfanyl]-2-chloro-phenoxy}-acetic acid | ClC1=CC=C(C=C1)C(=CCSC1=CC(=C(OCC(=O)O)C=C1)Cl)C1=CC=C(C=C1)Cl | C23H17Cl3O3S
